US04545936
Reaction of 9(R)-acetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione ([α]D20 =-87° (c=0.1, CHCl3)) (11.5 g) with pyrrolidone hydrotribromide (18.19 g) was effected in tetrahydrofuran (1380 mg) at room temperature for 40 hours. After removing insoluble matters by filtration, the solvent was distilled off under reduced pressure to give 9(R)-bromoacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione, which was used in the next step without purification.

reactant | 9(R)-acetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | 11.5 g | C(C)(=O)[C@]1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)O | C20H16O6
reactant | pyrrolidone hydrotribromide | 18.19 g | C1CC(=O)NC1.Br[Br-]Br
solvent | tetrahydrofuran | 1380 mg | O1CCCC1 | C4H8O
product | 9(R)-bromoacetyl-6,9,11-trihydroxy-5,7,8,9,10,12-hexahydronaphthacene-5,12-dione | BrCC(=O)[C@]1(CCC=2C(=C3C(C=4C=CC=CC4C(C3=C(C2C1)O)=O)=O)O)O | C20H15BrO6
